US04716208
The procedure of Examples 6 and 7 was repeated except that the CHPM was a laboratory preparation. The CHPM was prepared as in Examples 1-3 except that the quantities of glacial methacrylic acid, benzyltriethylammonium chloride and methanol were doubled and the quantity of epichlorohydrin was 93.5 g, giving a glacial methacrylic acid/epichlorohydrin mol ratio of about 2/1. The mixture of ingredients was heated to 40±3° with agitation and maintained under those conditions for 48 hours. The product was washed with about 1750 ml of 5% aqueous sodium bicarbonate and 300 ml of ethyl acetate. After separating the upper organic layer, the aqueous layer was washed twice with 200 ml of ethyl acetate. After washing the combined ethyl acetate layers twice with 5% sodium bicarbonate and 4 times with deionized water, they were washed with 200 ml of 5% brine.

reactant | methacrylic acid | C(C(=C)C)(=O)O | C4H6O2
reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
catalyst | benzyltriethylammonium chloride | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | methanol | CO | CH4O
product | methacrylic acid epichlorohydrin | C(C(=C)C)(=O)O.C(Cl)C1CO1 | InChI=1S/C4H6O2.C3H5ClO/c1-3(2)4(5)6;4-1-3-2-5-3/h1H2,2H3,(H,5,6);3H,1-2H2
